US05071809
Preparation of Mixture of 1-Cyanoethoxy-2-butanol / 2-Cyanoethoxy-1-butanol
Into a 2 liter 3-necked round bottomed flask equipped with pressure equalizing dropping funnel, reflux condenser, and magnetic stirring bar was added 1177 g (13.08 moles) of 1,2-butanediol and 3.5 g of anhydrous lithium hydroxide. The solution was heated to 40° C. with stirring and then 570 g (10.75 moles) of acrylonitrile was added dropwise over a period of 2 hours and 45 minutes. The mixture then was allowed to react an additional one hour at temperature.

reactant | 1,2-butanediol | 13.08 moles, 1177 g | C(C(CC)O)O | C4H10O2
reactant | lithium hydroxide | 3.5 g | [OH-].[Li+]
reactant | acrylonitrile | 10.75 moles, 570 g | C(C=C)#N | C3H3N
product | 1-Cyanoethoxy-2-butanol 2-Cyanoethoxy-1-butanol | C(#N)C(C)OCC(CC)O.C(#N)CCOC(CCC)O | 2C7H13NO2
